US06417189B1
a. Synthesis of 1-(2-hex-5-ynoylperhydropyridazinyl)-3,3-dimethylpentane-1,2-dione
To a solution of 5-hexynoic acid (0.467 g, 4 mmol) in 10 ml CH2Cl2 was added triethylamine (0.56 ml, 4 mmol), followed by isobutyl chloroformate (0.53 ml, 4 mmol) at 0° C. After stirring for 5 minutes, a solution of 3,3-dimethyl-1-perhydropyridazinyl pentane-1,2-dione (0.424 g, 2 mmol) in 1 ml CH2Cl2 was added. The reaction was gradually warmed up to room temperature. The crude material was subject to silica gel purification to yield final product as clear oil (0.385 g, 63%). 1H NMR (CDCl3, 400 MHz) δ 0.91 (t, 3H, J=7.0); 1.26 (s, 6H); 1.76(m, 8H); 2.28 (m, 2H); 2.50 (m, 2H); 2.88 (m, 2H); 3.60 (m, 1H); 4.50 (m, 2H).

reactant | 5-hexynoic acid | 4 mmol, 0.467 g | C(CCCC#C)(=O)O | C6H8O2
reactant | triethylamine | 4 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 4 mmol, 0.53 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3,3-dimethyl-1-perhydropyridazinyl pentane-1,2-dione | 2 mmol, 0.424 g | CC(C(C(=O)C1NNCCC1)=O)(CC)C | C11H20N2O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-hex-5-ynoylperhydropyridazinyl)-3,3-dimethylpentane-1,2-dione | 0.385 g, 63% | C(CCCC#C)(=O)N1NCCCC1C(C(C(CC)(C)C)=O)=O | C17H26N2O3
